US07897792B2
4,7-Dihydroxy-3-(3-nitrobenzyl)-2-oxo-2H-1-benzopyran
4,7-Dihydroxy-2-oxo-2H-1-benzopyran (500 mg, 2.81 mmol) and 3-nitrobenzaldehyde (424 mg, 2.81 mmol) were added to a mixture of triethylamine (1.57 mL, 11.23 mmol) and formic acid (1.07 mL, 28.07 mmol), and the obtained mixture was stirred at 100° C. for 2 hours. A 5N hydrochloric acid aqueous solution was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic extract was washed with saturated saline and dried over magnesium sulfate, and then concentrated under reduced pressure to yield the title compound (300 mg, 34%) as a pale yellow solid.

reactant | 4,7-Dihydroxy-2-oxo-2H-1-benzopyran | 2.81 mmol, 500 mg | OC1=CC(OC2=C1C=CC(=C2)O)=O | C9H6O4
reactant | 3-nitrobenzaldehyde | 2.81 mmol, 424 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | triethylamine | 11.23 mmol, 1.57 mL | C(C)N(CC)CC | C6H15N
reactant | formic acid | 28.07 mmol, 1.07 mL | C(=O)O | CH2O2
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,7-Dihydroxy-3-(3-nitrobenzyl)-2-oxo-2H-1-benzopyran | 300 mg, 34% | OC1=C(C(OC2=C1C=CC(=C2)O)=O)CC2=CC(=CC=C2)[N+](=O)[O-] | C16H11NO6
